US04243819
To a mixture of ethyl 2-bromo-3-hydroxybutanoate (10 g) and 15 ml of HMPT is added 13.2 g of aniline. The reaction is stirred at RT for 3 days and then taken up in ether followed by washing with dilute sulfuric acid, pH 3, and water. The ether phase is dried over magnesium sulfate and evaporated to yield ethyl 2-phenylamino-3-hydroxybutanoate, which is saponified using 1.6 g of sodium hydroxide, 40 ml of methanol and 20 ml of water with stirring overnight at RT. The acid 2-phenylamino-3-hydroxybutanoic acid (3.0 g) is reacted with m-phenoxybenzyl bromide (3.4 g) in HMPT (20 ml) and potassium carbonate (2.12 g) at 35° for a few hours and worked up using ether/water to yield the m-phenoxybenzyl ester of 2-phenylamino-3-hydroxybutanoic acid.

reactant | ethyl 2-bromo-3-hydroxybutanoate | 10 g | BrC(C(=O)OCC)C(C)O | C6H11BrO3
reactant | HMPT | 15 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | aniline | 13.2 g | NC1=CC=CC=C1 | C6H7N
solvent | ether | CCOCC | C4H10O
product | ethyl 2-phenylamino-3-hydroxybutanoate | C1(=CC=CC=C1)NC(C(=O)OCC)C(C)O | C12H17NO3
